US04435405
p-Toluenesulphonyl chloride (4.2 g.) was added to a solution of (S)-2-t-butoxycarbonylamino-1-propanol (3.5 g.) in pyridine (10 ml.) at 0°. The mixture was kept at 0°-5° for 20 hr. and then poured into ice-water (200 ml.) and extracted with diethyl ether (3×50 ml.). The diethyl ether extract was washed successively with 1 M-hydrochloric acid (50 ml.), saturated sodium carbonate solution (50 ml.) and brine (50 ml.), and then dried (MgSO4). The solvent was evaporated and the residue was crystallised from ethyl acetate-petroleum ether to give (S)-2-t-butoxycarbonylamino-1-toluenesulphonyloxypropane, m.p. 73°-4°.

reactant | p-Toluenesulphonyl chloride | 4.2 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | (S)-2-t-butoxycarbonylamino-1-propanol | 3.5 g | C(C)(C)(C)OC(=O)N[C@H](CO)C | C8H17NO3
reactant | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
product | (S)-2-t-butoxycarbonylamino-1-toluenesulphonyloxypropane | C(C)(C)(C)OC(=O)N[C@H](COS(=O)(=O)C=1C(=CC=CC1)C)C | C15H23NO5S
